US06703391B2
5-Isoquinolinamine
5-Nitroisoquinoline (100.3 g, 0.576 mol) was dissolved in MeOH and shaken with Raney nickel (10 g) on a Parr apparatus under a H2 atmosphere (50 psi) for 21 hours. The MeOH was removed in vacuo, the residue dissolved in chloroform (150 mL), and filtered into 600 mL petroleum ether. The solid was collected by filtration. This trituration procedure was repeated several times to give 81.24 g (98%) of the desired product.

reactant | 5-Nitroisoquinoline | 0.576 mol, 100.3 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
solvent | MeOH | CO | CH4O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 5-Isoquinolinamine | 81.24 g, 98% | C1=NC=CC=2C(=CC=CC12)N | C9H8N2
